US06133294
3-Chloro-2-methylthio-5-(trimethylsilylethynyl)-pyridine
A mixture of 5-bromo-3-chloro-2-methylthio-pyridine (7.5 g, 0.031 mol), trimethylsilylacetylene (5.3 g, 0.053 mol), copper (I) iodide (60 mg, 0.32 mmol), bis(triphenylphosphine) palladium (II) chloride (0.42 g, 0.6 mmol) and triethylamine (100 mL) was sealed in a 300 mL Hastelloy steel bomb and heated with stirring at 80° C. for 17 hours. The mixture was cooled, filtered, and the precipitate washed with ethyl acetate (100 mL). The combined organic solutions were evaporated to dryness under reduced pressure. The resultant dark oil was dissolved in hexane (100 mL) and washed with water and brine, and evaporated under reduced pressure. Purification of the residue by chromatography over silica (0-2% ethyl acetate:hexane) gave the desired product (5.6 g, 71%) as a yellow oil.

reactant | 5-bromo-3-chloro-2-methylthio-pyridine | 0.031 mol, 7.5 g | BrC=1C=C(C(=NC1)SC)Cl | C6H5BrClNS
reactant | trimethylsilylacetylene | 0.053 mol, 5.3 g | C[Si](C)(C)C#C | C5H10Si
catalyst | copper (I) iodide | 0.32 mmol, 60 mg | [Cu]I
catalyst | bis(triphenylphosphine) palladium (II) chloride | 0.6 mmol, 0.42 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | triethylamine | 100 mL | C(C)N(CC)CC | C6H15N
product | 3-Chloro-2-methylthio-5-(trimethylsilylethynyl)-pyridine | 5.6 g, 71% | ClC=1C(=NC=C(C1)C#C[Si](C)(C)C)SC | C11H14ClNSSi
